US07348438B2
1-Chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol
To 5,6-dichloro-1-methyl-2-isopropenyl-1H-benzimidazole (2.5 g) in acetone (30 mL) and water (6 mL) at room temperature was added trichloroisocyanuric acid (845 mg). The resulting mixture was stirred at room temperature for 18 h. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. After removal of the dessicant by filtration, concentration yielded an orange crude oil. The crude product was purified by flash chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a yellow solid.

reactant | 5,6-dichloro-1-methyl-2-isopropenyl-1H-benzimidazole | 2.5 g | ClC1=CC2=C(N(C(=N2)C(=C)C)C)C=C1Cl | C11H10Cl2N2
reactant | trichloroisocyanuric acid | 845 mg | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | 6 mL | O | H2O
product | 1-Chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol | ClCC(C)(O)C1=NC2=C(N1C)C=C(C(=C2)Cl)Cl | C11H11Cl3N2O
